US05559106
1-[(Diethoxyphosphoryl)methyl]-8-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
This compound was prepared by the procedure described in example 18 starting from 4-fluoro-3-nitrobenzotrifluoride and 2,4-dimethoxybenzylamine, except that the intermediate 1-[(diethoxyphosphoryl)methyl]-5-(2,4-dimethoxybenzyl)-8-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one was deprotected by treatment with trifluoroacetic acid at room temperature overnight. The mixture was evaporated to dryness and the residue was recrystallized from ethanol to give the pure title compound, m.p. 204°-208° C.

reactant | 4-fluoro-3-nitrobenzotrifluoride | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 2,4-dimethoxybenzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | 1-[(diethoxyphosphoryl)methyl]-5-(2,4-dimethoxybenzyl)-8-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC(=CC=C1N(C2=O)CC2=C(C=C(C=C2)OC)OC)C(F)(F)F | C24H26F3N4O6P
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[(Diethoxyphosphoryl)methyl]-8-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC(=CC=C1NC2=O)C(F)(F)F | C15H16F3N4O4P
